US05158946
a) Diphenylmethyl 3-(2,5-Dihydro-2-oxofuran-4-yl-thiomethyl)-7β-[2-(2-tritylaminothiazol-4-yl)-2-(Z)-trityloxyiminoacetamido]ceph-3-em-4-carboxylate
A stirred solution of sodium 2-(2-tritylaminothiazol-4-yl)-2-(Z)-trityloxyiminoacetate (762 mg) in dimethylformamide (4 ml) was cooled to -55° C. to -60° C. and methanesulphonyl chloride (0.085 ml) was added. The mixture was stirred at the same temperature for 30 mins and then a solution of diphenylmethyl 7β-amino-3-(2,5-dihydro-2-oxofuran-4-ylthiomethyl)ceph-3-em-4-carboxylate (494 mg) in dimethylformamide (4 ml) was added followed by pyridine (0.08 ml). The mixture was then stirred at 0° C. for 90 mins and then partitioned between ethyl acetate and aqueous citric acid solution. The organic phase was washed successively with water, sodium bicarbonate solution, water, and brine. The solution was dried over magnesium sulphate and evaporated. The title compound (744 mg) was isolated by column chromatography of the residue using gradient elution (Kieselgel 2:1 going to 1:1 hexane:ethyl acetate). υmax (CHCl3) 3400, 1785, 1745 and 1685cm-1 . δH(CDCl3) 3.23 (1H, d, J 18.2Hz), 3.52 (1H, d, J 18.2Hz), 3.93 (1H, d, J 12.6Hz), 3.99 (1H, d, J 12.5Hz), 4.70 (2H, s), 5.08 (1H, d, J 5.0Hz),5.65 (1H, s), 6.11 (1H, dd, J 5.0 and 8.9Hz), 6.43 (1H, s), 6.75 (1H, s), 6.98 (1H, s), 7.15-7.5 (41H, m). [mass spectrum: +ve ion (thioglycerol) MH+ 1148].

reactant | sodium 2-(2-tritylaminothiazol-4-yl)-2-(Z)-trityloxyiminoacetate | 762 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)/C(/C(=O)[O-])=N/OC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.[Na+]
reactant | methanesulphonyl chloride | 0.085 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | diphenylmethyl 7β-amino-3-(2,5-dihydro-2-oxofuran-4-ylthiomethyl)ceph-3-em-4-carboxylate | 494 mg | N[C@H]1[C@@H]2N(C(=C(CS2)CSC2=CC(OC2)=O)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C25H22N2O5S2
reactant | pyridine | 0.08 ml | N1=CC=CC=C1 | C5H5N
solvent | dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
product | Diphenylmethyl 3-(2,5-Dihydro-2-oxofuran-4-yl-thiomethyl)-7β-[2-(2-tritylaminothiazol-4-yl)-2-(Z)-trityloxyiminoacetamido]ceph-3-em-4-carboxylate | 744 mg | O=C1OCC(=C1)SCC=1CS[C@H]2N(C1C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C([C@H]2NC(\C(=N/OC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)\C=2N=C(SC2)NC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)=O | C68H53N5O7S3
